US07638517B2
2-[(4-Methoxy-pyrrolo[2,3-b]pyridin-1-yl)-phenyl-methyl]-malonic acid tert-butyl ester methyl ester was prepared from 4-methoxy-1H-pyrrolo[2,3-b]pyridine (WO03/082289) and 2-benzylidene-malonic acid tert-butyl ester methyl ester using the procedure of Example 7, and was used without purification.

reactant | 4-methoxy-1H-pyrrolo[2,3-b]pyridine | COC1=C2C(=NC=C1)NC=C2 | C8H8N2O
reactant | 2-benzylidene-malonic acid tert-butyl ester methyl ester | COC(C(C(=O)OC(C)(C)C)=CC1=CC=CC=C1)=O | C15H18O4
product | 2-[(4-Methoxy-pyrrolo[2,3-b]pyridin-1-yl)-phenyl-methyl]-malonic acid tert-butyl ester methyl ester | COC(C(C(=O)OC(C)(C)C)C(C1=CC=CC=C1)N1C=CC=2C1=NC=CC2OC)=O | C23H26N2O5
